.subckt ThermalModel  Tj Ta Tc params:
+ Rth1=0.484 Rth2=1.46 Rth3=1.23
+ Cth1=1.11m Cth2=10.3m Cth3=443m
C1 Tj Ta {Cth1}
R1 Tj 1  {Rth1}
C2 1  Ta {Cth2}
R2 1 2   {Rth2}
C3 2  Ta {Cth3}
R3 2  Tc {Rth3}
.ends
